US04981983
(a) 3α,7β-diethoxycarbonyl-12α-hydroxy-23-methyl-5β-cholan-24-oic acid, methyl ester
To a solution of N-cyclohexyl-isopropyl-amine (2.8 ml: 0.017 mol) in anhydrous THF (120 ml), 11.4 ml (0.016 mol) of a butyllithium solution were added in 30'; the stirred mixture was then cooled (under nitrogen) to -78° C., and 3α,7β-diethoxycarbonyl-12α-hydroxy-5β-cholan-24-oic acid, methyl ester (2.5 g; 0.0045 mol), dissolved in 22 ml of anhydrous THF was added very slowly (45'). Fifteen minutes after the addition, CH3I (10.2 g; 0.072 mol) was added, and the mixture was brought to room temperature. After 5 hours the reaction was complete; the solution was acidified with a 10% aqueous solution of HCl and extracted with CHCl3 (3×80 ml). The chloroform solution was washed with water, dried on Na2SO4, and evaporated to dryness. The yield is almost quantitative.

reactant | N-cyclohexyl-isopropyl-amine | 0.017 mol, 2.8 ml | C1(CCCCC1)NC(C)C | C9H19N
reactant | butyllithium | 0.016 mol, 11.4 ml | C(CCC)[Li]
reactant | 3α,7β-diethoxycarbonyl-12α-hydroxy-5β-cholan-24-oic acid, methyl ester | 0.0045 mol, 2.5 g | C(C)OC(=O)[C@H]1C[C@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)C(=O)OCC | C31H50O7
reactant | CH3I | 0.072 mol, 10.2 g | CI | CH3I
reactant | HCl | Cl | ClH
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | 3α,7β-diethoxycarbonyl-12α-hydroxy-23-methyl-5β-cholan-24-oic acid, methyl ester | C(C)OC(=O)[C@H]1C[C@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CC(C(=O)OC)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)C(=O)OCC | C32H52O7
